US08030435B2
5 g (0.028 moles) of 2,4,4-trimethylpentyl phosphinic acid, 4.78 g (0.28 moles) of 10-undecen-1-ol and 0.3 mL (0.0014 moles) of di-tert-amylperoxide is mixed in a 50 mL single neck flask. The mixture is purged with argon to remove oxygen and is heated under argon for 5 hours at 140° C. Tert-amyl alcohol is removed by distillation and 9.8 g (quantitative yield) of (11-hydroxy-undecyl)-(2,4,4-trimethylpentyl)-phosphinic acid is obtained as a viscous oil.

reactant | 2,4,4-trimethylpentyl phosphinic acid | 0.028 moles, 5 g | CC(CP(O)=O)CC(C)(C)C | C8H19O2P
reactant | 10-undecen-1-ol | 0.28 moles, 4.78 g | C(CCCCCCCCC=C)O | C11H22O
catalyst | di-tert-amylperoxide | 0.0014 moles, 0.3 mL | C(C)(C)(CC)OOC(C)(C)CC | C10H22O2
product | (11-hydroxy-undecyl)-(2,4,4-trimethylpentyl)-phosphinic acid | 9.8 g, quantitative yield | OCCCCCCCCCCCP(O)(=O)CC(CC(C)(C)C)C | C19H41O3P
